US08541584B2
1.2 179 mg (1.28 mmol) of potassium carbonate are added to a solution of 192 mg (0.51 mmol) of tert-butyl 3-(1-benzyl-1H-1,2,3-triazol-4-yl)pyrrolo-[2,3-b]pyridine-1-carboxylate in 2.6 ml of methanol, and the mixture is stirred at room temperature for 1 hour. The reaction mixture is adsorbed onto kieselguhr and chromatographed on a silica-gel column with dichloromethane/methanol/ammonia water, giving 3-(1-benzyl-1H-1,2,3-triazol-4-yl)-1H-pyrrolo[2,3-b]pyridine as colourless crystals; ESI 276;

reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl 3-(1-benzyl-1H-1,2,3-triazol-4-yl)pyrrolo-[2,3-b]pyridine-1-carboxylate | 0.51 mmol, 192 mg | C(C1=CC=CC=C1)N1N=NC(=C1)C1=CN(C2=NC=CC=C21)C(=O)OC(C)(C)C | C21H21N5O2
solvent | methanol | 2.6 ml | CO | CH4O
product | 3-(1-benzyl-1H-1,2,3-triazol-4-yl)-1H-pyrrolo[2,3-b]pyridine | C(C1=CC=CC=C1)N1N=NC(=C1)C1=CNC2=NC=CC=C21 | C16H13N5
